US07960409B2
Step 5: 4-(3-fluorophenyl)-7-methyl-2H-chromen-2-one
To a solution of 7-methyl-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate (5 g, 16.2 mmol) and 3-fluorobenzeneboronic acid (2.5 g, 17.9 mmol) in THF (75 mL), tricyclohexylphosphine (227 mg, 0.81 mmol) and potassium fluoride (3.3 g, 56.8 mmol) were added. The reaction mixture was purged twice with nitrogen before palladium (II) acetate (146 mg, 0.65 mmol) was added. After 16 hours stirring at room temperature, the reaction mixture was filtered over celite and the filtrate was concentrated under reduced pressure. The crude residue obtained was purified by column chromatography (CH2Cl2/Hexanes, 70:30). To afford the title compound 1H NMR (400 MHz, acetone-d6): 7.7-7.6 (m, 1H), 7.45-7.3 (m, 4H), 7.26 (s, 1H), 7.18 (d, 1H), 6.3 (s, 1H), 2.47 (s, 3H).

reactant | 7-methyl-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate | 16.2 mmol, 5 g | FC(S(=O)(=O)OC1=CC(OC2=CC(=CC=C12)C)=O)(F)F | C11H7F3O5S
reactant | 3-fluorobenzeneboronic acid | 17.9 mmol, 2.5 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | tricyclohexylphosphine | 0.81 mmol, 227 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium fluoride | 56.8 mmol, 3.3 g | [F-].[K+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | palladium (II) acetate | 0.65 mmol, 146 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-fluorophenyl)-7-methyl-2H-chromen-2-one | FC=1C=C(C=CC1)C1=CC(OC2=CC(=CC=C12)C)=O | C16H11FO2
